US08314091B2
B: 19: 3-((4-(4-Amino-2,5-difluorobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide
1-Propanephosphonic acid cyclic anhydride (2.91 g, 9.2 mmol, 2.73 mL) was added dropwise to a solution of 4-amino-2,5-difluorobenzoic acid (792.9 mg, 4.6 mmol), N-tert-butyl-3-(piperazin-1-ylmethyl)benzamide (1.3878 g, 5 mmol) and triethylamine (1.39 g, 13.9 mmol, 1.91 mL) in dichloromethane. The reaction mixture was stirred at room temperature for 1 hour. The reaction was concentrated under reduced pressure and the residue was taken up with ethyl acetate, washed with water, sodium hydrogen carbonate and brine. The organic phase was concentrated under vacuum to afford the title compound (1.52 g). MS (ESI) m/z 431.9 [M+H]+

reactant | 1-Propanephosphonic acid cyclic anhydride | 9.2 mmol, 2.73 mL, 2.91 g | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
reactant | 4-amino-2,5-difluorobenzoic acid | 4.6 mmol, 792.9 mg | NC1=CC(=C(C(=O)O)C=C1F)F | C7H5F2NO2
reactant | N-tert-butyl-3-(piperazin-1-ylmethyl)benzamide | 5 mmol, 1.3878 g | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCNCC1)=O | C16H25N3O
reactant | triethylamine | 13.9 mmol, 1.91 mL, 1.39 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-((4-(4-Amino-2,5-difluorobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide | 1.52 g | NC1=CC(=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)C=C1F)F | C23H28F2N4O2
